Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
levofloxacin
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
Abdominal abscess aspiration ___
 
History of Present Illness:
___ is a ___ w/ HTN who presents for an episode of
syncope and several episodes of emesis, found to have imaging
findings c/f a possible abscess near the gallbladder fossa.

Ms. ___ was in her USOH until ___ in the ___. Patient
states that during the day she went to a picnic where she ate 
new
foods (including cow heart); in the evening she felt uneasy and
had some leg cramps; she repositioned herself to another chair,
and shortly thereafter lost consciousness. Per husband who
witnessed, patients LOC lasted approximately 1 minute, and was
not accompanied by shaking. Ms. ___ denies CP, palpitations,
SOB, tongue biting, urinary or fecal incontinence. She states
that she occasionally faints when she feels unwell. 
After she regained consciousness she went to sleep, but woke up
one hour later with the urge to defecate- as she stood up she
became extremely lightheaded, at which point her husband called
___. On the way to ___ she developed several
episodes of non-bloody emesis. 
At the OSH she had a CT of her abdomen that showed a 2.8cm
possible fluid collection near the gallbladder fossa that is c/f
potential liver abscess, so she was transferred here for further
workup. 

Currently, Ms. ___ feels well- she states that she no longer
feels nauseous or lightheaded. She denies recent sick contacts,
recent travel (though she and her husband went to ___ from
___, recent freshwater swimming. Denies F/C,
diarrhea, constipation, melena, hematochezia. The only other
notable is that she recently started taking turmeric supplement
again over the last few weeks (from ___.
 
Past Medical History:
HTN
elevated intraocular pressure
 
Social History:
___
Family History:
arrhythmia in her sister
HTN in her mother
 
Physical ___:
ADMISSION EXAM:
============
VITALS: 24 HR Data (last updated ___ @ 715) Temp: 98.5 (Tm 
98.5), BP: 118/77, HR: 66, RR: 20, O2 sat: 93%, O2 delivery: RA, 
Wt: 222.4 lb/100.88 kg
GENERAL: Alert and in NAD
EYES: Anicteric, PERRLA, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx: without visible lesion, erythema or exudate
CV: RRR, no murmurs/rubs/gallops. No JVD or hepatojugular reflux
RESP: Lungs CTAB, no crackles/rhonchi/wheezes, breathing
non-labored
GI: Abdomen soft, ND, NTTP, +BS, no HSM
GU: No suprapubic or CVA TTP
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
============

Vitals: ___ 1224 Temp: 97.9 PO BP: 110/60 HR: 59 RR: 18 O2 
sat: 97% O2 delivery: Ra 
GENERAL: Alert and in NAD
EYES: Anicteric, PERRLA, EOMI
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx: without visible lesion, erythema or exudate
CV: RRR, no murmurs/rubs/gallops. No JVD
RESP: Lungs CTAB, no crackles/rhonchi/wheezes, breathing 
non-labored
GI: Abdomen soft, ND, NTTP, +BS, no HSM
GU: No suprapubic or CVA TTP
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly 
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:

___ 08:20PM BLOOD WBC-11.7* RBC-4.67 Hgb-13.9 Hct-41.5 
MCV-89 MCH-29.8 MCHC-33.5 RDW-12.7 RDWSD-41.3 Plt ___
___ 08:20PM BLOOD Neuts-76.9* Lymphs-13.5* Monos-8.2 
Eos-0.6* Baso-0.5 Im ___ AbsNeut-9.01* AbsLymp-1.58 
AbsMono-0.96* AbsEos-0.07 AbsBaso-0.06
___ 08:20PM BLOOD ___ PTT-33.8 ___
___ 08:20PM BLOOD Glucose-99 UreaN-7 Creat-0.7 Na-139 K-3.6 
Cl-105 HCO3-24 AnGap-10
___ 08:20PM BLOOD Lactate-1.4

IMPORTANT INTERIM LABS:

___ 05:56AM BLOOD ALT-18 AST-15 AlkPhos-77 TotBili-0.4

MICRO:

___ 3:20 pm ABSCESS      Source: ___ drainage of fluid 
collection. 
      LIVER ABSCESS. 

   GRAM STAIN (Final ___: 
      Reported to and read back by ___. ___ (___) @ 
___ ON
      ___. 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   FLUID CULTURE (Preliminary): 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

IMAGING:

___ U/S ABD:
IMPRESSION: 
Complex collection measuring up to 3.1 cm in the gallbladder 
fossa, concerning
for abscess in the setting of leukocytosis.

___ Second Opinion Read CT ABD/PEL
IMPRESSION:
1. 2.7 cm fluid collection adjacent to the cholecystectomy 
clips.
2. 1.1 cm left adrenal nodule is indeterminate however 
statistically most
likely represents an adenoma
3. Subcentimeter angiomyolipoma in the left kidney
4. 4 mm lung nodule in the left lower lobe please see 
recommendations below
 
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule
smaller than 6 mm, no CT ___ is recommended in a low-risk 
patient, and
an optional CT in 12 months is recommended in a high-risk 
patient.
 
See the ___ ___ Guidelines for the Management 
of Pulmonary
Nodules Incidentally Detected on CT" for comments and reference:
___

DISCHARGE LABS:

___ 06:22AM BLOOD WBC-9.0 RBC-4.64 Hgb-13.8 Hct-40.7 MCV-88 
MCH-29.7 MCHC-33.9 RDW-12.7 RDWSD-40.4 Plt ___
___ 06:22AM BLOOD Glucose-116* UreaN-13 Creat-0.8 Na-144 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 06:22AM BLOOD Calcium-9.6 Phos-4.1 Mg-2.0
 
Brief Hospital Course:
___ is a ___ female with medical history of HTN 
and recent cholecystectomy in ___, who presents for an 
episode of syncope and several episodes of emesis, found to have 
liver abscess in gallbladder fossa adjacent
to cholecystectomy clips.

ACUTE/ACTIVE PROBLEMS:

#Abscess in gallbladder fossa:
Upon arrival to floor she was asymptomatic. Put on empiric 
ceftriaxone and metronidazole. U/S confirmed 3cm complex fluid 
collection in gallbladder fossa. She underwent CT-guided 
aspiration by ___ on ___. Culture grew e. coli, resistant to 
ciprofloxacin but otherwise pansensitive. After consultation 
with ID, switched to directed therapy with Augmentin BID, with 
course likely ___ weeks, to be determined after ID ___ and 
repeat imaging. It is not entirely clear when this abscess 
started, possibly current presentation of nausea/vomiting was 
incidental and this is a result of prior gallbladder surgery in 
___ as it is adjacent to the surgical clips.

#Syncope: Likely ___ neurocardiogenic or orthostatic syncope in 
s/o emesis and lightheadedness, as has happened to her in the 
past. Seizure unlikely given history; cardiac etiology is 
certainly possible as she is overweight and has never had a 
stress test, and her sister has a h/o arrhythmia. No events on 
telemetry over 24 hours. Orthostatic vital signs negative.

CHRONIC/STABLE PROBLEMS:

#HTN: Continued home chlorthalidone 25mg qd, monitor BP.

#Elevated intraocular pressures: Continued home timolol.

TRANSITIONAL ISSUES:
[]4 mm lung nodule in the left lower lobe; For incidentally 
detected single solid pulmonary nodule smaller than 6 mm, no CT 
___ is recommended in a low-risk patient, and an optional
CT in 12 months is recommended in a high-risk patient. 
[] 1.1 cm left adrenal nodule is indeterminate however 
statistically most likely represents an adenoma 
[] Recommend outpatient TTE to complete ?syncope work-up
[] Consider stress test as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Weeks 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*63 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Chlorthalidone 25 mg PO DAILY  
4.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted for vomiting, and found to have a collection 
of infection in your right upper abdomen, just next to your 
liver. This was drained and you were started on antibiotics.

It was a pleasure taking care of you!

Sincerely, your ___ Team

 
Followup Instructions:
___